US07829715B2
A 25.0 g portion of (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline and 24.5 g of benzyl chloride carbonate were added to a mixture of 125 ml of toluene, 19.8 g of potassium carbonate and 75 ml of water and stirred at 20° C. for 4 hours, and the organic layer was washed with 75 ml of water. The thus obtained organic layer was concentrated under a reduced pressure, purified by a silica gel column chromatography and then dried to obtain 38.0 g of (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester (1H-NMR (DMSO-d6, tetramethylsilane internal standard): δ 2.73-2.83 (1H, m), 2.84-2.94 (1H, m), 3.31-3.41 (1H, m), 3.86-3.96 (1H, m), 5.12 (1H, d, J=12.8 Hz), 5.18 (1H, d, J=12.8 Hz), 6.28 (1H, s), 7.10-7.38 (14H, m), mass spectrum: m/z=344 [M+H]+ (FAB)).

reactant | (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)[C@@H]1NCCC2=CC=CC=C12 | C15H15N
reactant | benzyl chloride carbonate | 24.5 g | C(O)(O)=O.C(C1=CC=CC=C1)Cl
reactant | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 19.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 75 ml | O | H2O
product | (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester | 38.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C2=CC=CC=C2CC1)C1=CC=CC=C1 | C23H21NO2
